US09334290B2
A solution of 3-(3-bromo-2-methylphenyl)-1-(4-methoxybenzyl)-5-(phenylselanyl)dihydropyrimidine-2,4(1H,3H)-dione (5.43 g, 9.73 mmol) in THF (97 mL) was treated with 30% aqueous hydrogen peroxide (5.0 mL, 48.6 mmol) and the mixture was stirred at room temperature for 30 min. Water was added and the mixture was extracted with EtOAc. The organic phase was washed with brine, dried and concentrated. The residue was purified by column chromatography on silica gel (220 g), eluting with EtOAc-hexanes (gradient from 25-70%), to provide 3-(3-bromo-2-methylphenyl)-1-(4-methoxybenzyl)pyrimidine-2,4(1H,3H)-dione as a white solid (2.10 g, 54% yield). Mass spectrum m/z 401, 403 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 7.95 (d, J=7.9 Hz, 1H), 7.70-7.65 (m, 1H), 7.32-7.28 (m, 2H), 7.25-7.22 (m, 2H), 6.96-6.91 (m, 2H), 5.86 (d, J=7.9 Hz, 1H), 4.89 (d, J=2.4 Hz, 2H), 3.74 (s, 3H), 2.02 (s, 3H).

reactant | 3-(3-bromo-2-methylphenyl)-1-(4-methoxybenzyl)-5-(phenylselanyl)dihydropyrimidine-2,4(1H,3H)-dione | 9.73 mmol, 5.43 g | BrC=1C(=C(C=CC1)N1C(N(CC(C1=O)[Se]C1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O)C | C25H23BrN2O3Se
reactant | hydrogen peroxide | 48.6 mmol, 5.0 mL | OO | H2O2
reactant | Water | O | H2O
solvent | THF | 97 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-1-(4-methoxybenzyl)pyrimidine-2,4(1H,3H)-dione | 2.10 g, 54% yield | BrC=1C(=C(C=CC1)N1C(N(C=CC1=O)CC1=CC=C(C=C1)OC)=O)C | C19H17BrN2O3
